US08349880B2
Step L (5): Methanolic ammonia (2.0 M, 20 mL, 40 mmol) was added to a flask charged with 5-(4-isothiocyanato-2-methoxyphenyl)-3-methylpyridazine (650 mg, 2.53 mmol). After 4 h, the reaction mixture was concentrated in vacuo to afford 1-(3-methoxy-4-(6-methylpyridazin-4-yl)phenyl)thiourea (690 mg, 100% yield). LC-MS (M+H)+ 275.2.

reactant | ammonia | 40 mmol, 2.0 M, 20 mL | N | H3N
reactant | 5-(4-isothiocyanato-2-methoxyphenyl)-3-methylpyridazine | 2.53 mmol, 650 mg | N(=C=S)C1=CC(=C(C=C1)C=1C=C(N=NC1)C)OC | C13H11N3OS
product | 1-(3-methoxy-4-(6-methylpyridazin-4-yl)phenyl)thiourea | 690 mg, 100% yield | COC=1C=C(C=CC1C1=CN=NC(=C1)C)NC(=S)N | C13H14N4OS
